US04219657
To 200 g. of polyphosphoric acid contained in a 1-l. three-necked flask, provided with a stirrer and condenser was added 8.0 g. of 3-(3-chlorophenylthio)-4-oxocyclohexaneacetic acid ethyl ester. The mixture was heated on a steam bath for 90 minutes and then poured into a mixture of 200 g. of ice and 200 ml. of water with stirring, which was continued until the dark oily complex was decomposed and a light yellow color appeared. The product was extracted twice with 200 ml. of ether. The ether extract was washed twice with 50 ml. of water and then with 50 ml. of saturated sodium bicarbonate solution. The solution was dried over anhydrous potassium carbonate and then filtered. The ether was removed on a steam bath in a rotary evaporator at atmospheric pressure, and the residue was distilled at reduced pressure. At 205°-220°/2 mm. a yield of 3.3 g. of 9-chloro-1,2,3,4-tetrahydrodibenzothiophene-3-acetic acid ethyl ester was obtained.

reactant | 3-(3-chlorophenylthio)-4-oxocyclohexaneacetic acid ethyl ester | C(C)OC(CC1CC(C(CC1)=O)SC1=CC(=CC=C1)Cl)=O | C16H19ClO3S
solvent | water | O | H2O
product | 9-chloro-1,2,3,4-tetrahydrodibenzothiophene-3-acetic acid ethyl ester | C(C)OC(CC1CCC2=C(SC3=C2C(=CC=C3)Cl)C1)=O | C16H17ClO2S
